US06656946B2
4-[(3-Bromo-phenyl)amino]-6-(2-{N-[(tert.butyloxycarbonyl)methyl]-N-((S)-2-hydroxy-propyl)-amino}-ethoxy)-7-methoxy-quinazoline
0.25 ml of diisopropylethylamine are added to 650 mg of 4-[(3-bromo-phenyl)amino]-6-(2-bromoethoxy)-7-methoxy-quinazoline and 1.10 g of tert.butyl (S)-(2-hydroxy-propylamino)-acetate in 15 ml of acetonitrile. The reaction mixture is stirred overnight at 50° C. Since no reaction can be detected, the reaction mixture is concentrated by evaporation, combined with 20 ml of N,N-dimethylformamide and stirred for eight hours at 60° C. Then the temperature is increased to 80° C. After another eight hours the reaction is complete. The reaction mixture is concentrated by evaporation and chromatographed over a silica gel column with ethyl acetate as eluant. The desired product is obtained as a white solid.

reactant | diisopropylethylamine | 0.25 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 4-[(3-bromo-phenyl)amino]-6-(2-bromoethoxy)-7-methoxy-quinazoline | 650 mg | BrC=1C=C(C=CC1)NC1=NC=NC2=CC(=C(C=C12)OCCBr)OC | C17H15Br2N3O2
reactant | tert.butyl (S)-(2-hydroxy-propylamino)-acetate | 1.10 g | O[C@H](CNCC(=O)OC(C)(C)C)C | C9H19NO3
solvent | acetonitrile | 15 ml | C(C)#N | C2H3N
product | 4-[(3-Bromo-phenyl)amino]-6-(2-{N-[(tert.butyloxycarbonyl)methyl]-N-((S)-2-hydroxy-propyl)-amino}-ethoxy)-7-methoxy-quinazoline | BrC=1C=C(C=CC1)NC1=NC=NC2=CC(=C(C=C12)OCCN(C[C@H](C)O)CC(=O)OC(C)(C)C)OC | C26H33BrN4O5
